US06570040B2
Preparation of N-Iodoacetylmannosamine (Mixture of Anomers) (33) (Scheme 9a)
To a solution of mannosamine hydrochloride (244 mg, 1.13 mmol) in dry MeOH (11 mL) was added 1 M sodium methoxide in MeOH (1.13 mL). The reaction mixture was stirred for 1 h at rt, followed by the addition of iodoacetic anhydride (1.0 g, 2.8 mmol). The resulting solution was stirred overnight at rt under an atmosphere of N2. To this was added H2O (5 mL) and the solution was stirred for an additional 1 h. The solution was neutralized with sat. NaHCO3 and concentrated. The residue was filtered through a plug of silica gel eluting with 5:1 CHCl3/MeOH. The crude product obtained was used in the next step without further purification. 1H NMR (300 MHz, D2O): δ3.34-3.41 (m, 1H), 3.44-3.52 (m, 1H), 3.53-3.62 (m, 1H), 3.78 (d, 2H, J=1.0), 3.80 (d, 2H, J=1.3), 3.83 (br s, 2H), 4.00-4.07 (m, 1H), 4.24 (app d, 1H, J=4.6), 4.38 (app d, 1H, J=4.3), 4.84 (d, 1H J=1.6), 4.91 (d, 1H, J=1.4). 13C NMR (125 MHz, D2O): δ48.8, 53.7, 60.3, 66.4, 66.7, 68.8, 71.9, 72.0, 76.3, 92.4, 92.9, 172.7, 176.1. MS (ES) m/z 370.09 (MNa+).

reactant | mannosamine hydrochloride | 1.13 mmol, 244 mg | Cl.OC1[C@@H](N)[C@@H](O)[C@H](O)[C@H](O1)CO
reactant | sodium methoxide | 1 M | C[O-].[Na+]
reactant | iodoacetic anhydride | 2.8 mmol, 1.0 g | ICC(=O)OC(CI)=O | C4H4I2O3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | MeOH | 11 mL | CO | CH4O
solvent | MeOH | 1.13 mL | CO | CH4O
solvent | H2O | 5 mL | O | H2O
product | N-Iodoacetylmannosamine | ICC(=O)N[C@@H]1C(O)O[C@@H]([C@H]([C@@H]1O)O)CO | C8H14INO6
